US04085210
A solution of 5-(4-benzylmorpholin-2-yl)methylidene-5H-dibenzo[a,d]cycloheptene (0.32 g) in acetic acid was added to 10 % palladium on charcoal (90 mg) pretreated under hydrogen in hydrochloric acid, and the resulting mixture was stirred under hydrogen at room temperature for 8 hours. After elimination of the catalyst by filtration, the filtrate was evaporated. The residue was neutralized with 10 % aqueous sodium hydroxide solution and extracted with chloroform. The chloroform extract was washed with water, dried and evaporated to afford 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as oily material. M.P., 221° - 224° C (oxalate).

reactant | 5-(4-benzylmorpholin-2-yl)methylidene-5H-dibenzo[a,d]cycloheptene | 0.32 g | C(C1=CC=CC=C1)N1CC(OCC1)C=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C27H25NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 90 mg | [Pd] | Pd
solvent | hydrochloric acid | Cl | ClH
product | 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C20H21NO
